US05753665
A mixture of 3-chlorobutanone (10.6 g), benzoic acid (15.0 g), triethylamine (30 ml) and acetonitrile (100 ml) was heated under reflux for 1 hour 30 minutes. The mixture was cooled and filtered to remove precipitated triethylamine hydrochloride. The acetonitrile was removed from the filtrate under reduced pressure and the residue dissolved in ethyl acetate and washed with water. The organic extracts were dried over magnesium sulphate, filtered over active carbon and the solvent was removed from the filtrate under reduced pressure, to give a yellow oil of 3-benzoyloxybutan-2-one. Yield 16.7 g. The oil was used directly without further purification in the next step.

reactant | 3-chlorobutanone | 10.6 g | ClC(C(C)=O)C | C4H7ClO
reactant | benzoic acid | 15.0 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-benzoyloxybutan-2-one | C(C1=CC=CC=C1)(=O)OC(C(C)=O)C | C11H12O3
